US04088775
(b) (1S,5R,6R,7R)-6-[(E)-3,3-Ethylenedioxy-4-(2-naphthyloxy)-1-butenyl]-7-(tetrahydropyran-2-yloxy)-2-oxabicyclo-[3,3,0]octan-3-one
190 mg. of (1S,5R,6R,7R)-6-[(E)-3,3-ethylenedioxy-4-(2-naphthyloxy)-1-butenyl]-7-hydroxy-2-oxabicyclo[3,3,0]octan-3-one (prepared according to Example 5[a]), 0.2 ml. of freshly distilled dihydropyran, and 1.4 mg. of p-toluenesulfonic acid in 5 ml. of absolute methylene chloride were stirred for 30 minutes at ice bath temperature under argon. After dilution with methylene chloride, the mixture was shaken successively with sodium bicarbonate solution and water, dried over magnesium sulfate, and evaporated under vacuum. The residue was recrystallized from diisopropyl ether/methylene chloride, thus obtaining 204 mg. of the title compound as colorless crystals, m.p. 113°. IR: 1770, 1630, 1600, 975 cm-1.

reactant | (1S,5R,6R,7R)-6-[(E)-3,3-ethylenedioxy-4-(2-naphthyloxy)-1-butenyl]-7-hydroxy-2-oxabicyclo[3,3,0]octan-3-one | C1OC(/C=C/[C@@H]2[C@H]3CC(O[C@H]3C[C@H]2O)=O)(COC2=CC3=CC=CC=C3C=C2)OC1 | C23H24O6
reactant | dihydropyran | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (1S,5R,6R,7R)-6-[(E)-3,3-Ethylenedioxy-4-(2-naphthyloxy)-1-butenyl]-7-(tetrahydropyran-2-yloxy)-2-oxabicyclo-[3,3,0]octan-3-one | C1OC(/C=C/[C@@H]2[C@H]3CC(O[C@H]3C[C@H]2OC2OCCCC2)=O)(COC2=CC3=CC=CC=C3C=C2)OC1 | C28H32O7
